US05753664
3,5-Dimethyl-2-[4-[4-[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thiomethyl]benzoyl]benzylthio]-4(3H)-quinazolinone.
In DMF (20 ml) were dissolved 3,5-dimethyl-2-mercapto-4(3H)-quinazolinone (1.03 g), 4,4'-bis(bromomethyl) benzophenone (1.75 g), 1-(2-dimethylaminoethyl)-5-mercapto-1H-tetrazole (865 mg), and 1N-sodium hydroxide/water (11 ml) and the solution was stirred at room temperature for 30 minutes. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (chloroform: methanol: aqueous ammonia=50:1:0.1) and crystallized from methanol to provide the title compound as colorless solid (337 mg).

reactant | 3,5-dimethyl-2-mercapto-4(3H)-quinazolinone | 1.03 g | CN1C(=NC2=CC=CC(=C2C1=O)C)S | C10H10N2OS
reactant | 4,4'-bis(bromomethyl) benzophenone | 1.75 g | BrCC1=CC=C(C(=O)C2=CC=C(C=C2)CBr)C=C1 | C15H12Br2O
reactant | 1-(2-dimethylaminoethyl)-5-mercapto-1H-tetrazole | 865 mg | CN(CCN1N=NN=C1S)C | C5H11N5S
reactant | sodium hydroxide water | 11 ml | [OH-].[Na+].O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thiomethyl]benzoyl]benzylthio]-4(3H)-quinazolinone | 337 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)CSC1=NN=NN1CCN(C)C)=O | C30H31N7O2S2
